US08076336B2
1-(3-Cyclohexylmethoxy-5-methoxyphenyl)ethanone
1-(3-Hydroxy-5-methoxyphenyl)ethanone (O3.033; 1.5 g) and bromomethylcyclohexane (1.76 g) were dissolved in DMF (20 ml), and sodium hydride (260 mg) was added. After stirring at 50° C. for 24 h, the DMF was drawn off. The residue was taken up in EA, washed with water, dried, filtered and concentrated. The residue was purified using silica gel (40 g cartridge, n-heptane/EA 0-50% within 30 min). 1.33 g of the title compound were obtained. LC-MS rt: 1.93 min [M+H]+: 263.2 (met. a)

reactant | 1-(3-Hydroxy-5-methoxyphenyl)ethanone | 1.5 g | OC=1C=C(C=C(C1)OC)C(C)=O | C9H10O3
reactant | bromomethylcyclohexane | 1.76 g | BrCC1CCCCC1 | C7H13Br
reactant | sodium hydride | 260 mg | [H-].[Na+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | EA | CC(OCC)=O | C4H8O2
product | 1-(3-Cyclohexylmethoxy-5-methoxyphenyl)ethanone | 1.33 g | C1(CCCCC1)COC=1C=C(C=C(C1)OC)C(C)=O | C16H22O3
